US04620865
5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester (13 grams, 0.07 mole) and potassium hydroxide (7.8 grams, 0.14 mole) were combined in 75 ml. of ethanol and refluxed for six hours. The solution was cooled, poured over water, acidified with concentrated hydrochloric acid, and the precipitated solid collected, dried, and recrystallized from water. The resulting 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid was obtained in the amount of 5.4 grams and melted at 195°-197° C.

reactant | 5-Chloro-1-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 0.07 mole, 13 grams | ClC1=C(C=NN1C)C(=O)OCC | C7H9ClN2O2
reactant | potassium hydroxide | 0.14 mole, 7.8 grams | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid | ClC1=C(C=NN1C)C(=O)O | C5H5ClN2O2
